.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Include external subcircuit files*****
.INCLUDE "./nand.net"         ; Path to your nand gate subcircuit
.INCLUDE "./inverter_edited.net" ; Path to your inverter subcircuit
.INCLUDE "./orusingsubckt.net"	;
.INCLUDE "./nor.net"         ;
.INCLUDE "./and.net"         ;
.INCLUDE "./nand3.net"       ;
.INCLUDE "./nand4.net"       ;
 
.subckt cla p3_ p2_ p1_ p0_ g3_ g2_ g1_ g0_ Cn P_ G_ cnz cny cnx node1
x_in_inv1 p0 p0_ node1 inverter
x_in_inv2 p1 p1_ node1 inverter
x_in_inv3 p2 p2_ node1 inverter
x_in_inv4 p3 p3_ node1 inverter

xinv1 cn_ Cn node1 inverter

xnand1 op_nand1 p0_ g0_ node1 nand_gate
xnand2 op_nand2 cn_ g0_ node1 nand_gate
xnand3 op_nand3 op_nand1 op_nand2 node1 nand_gate
xinv2 cnx op_nand3 node1 inverter

xnand4 op_nand4 p1_ g1_ node1 nand_gate         
xnand5 op_nand31 p0_ g0_ g1_ node1  nand3_gate  
xnand6 op_nand32 cn_ g0_ g1_ node1 nand3_gate
xnand7 op_nand33 op_nand31 op_nand32 op_nand4 node1 nand3_gate
xinv3 cny op_nand33 node1 inverter

xnand8 op_nand5 p2_ g2_ node1 nand_gate
xnand9 op_nand34 p1_ g1_ g2_ node1  nand3_gate
xnand10 op_nand41 cn_ g0_ g1_ g2_ node1 nand4_gate
xnand11 op_nand42 p0_ g0_ g1_ g2_ node1 nand4_gate
xnand12 op_nand43 op_nand34 op_nand41 op_nand42 op_nand5 node1 nand4_gate
xinv4 cnz op_nand43 node1 inverter

xnand13 op_nand6 p3_ g3_ node1 nand_gate
xnand14 op_nand35 p2_ g3_ g2_ node1  nand3_gate
xnand16 op_nand44 p1_ g3_ g1_ g2_ node1 nand4_gate
xnand17 op_nand45 g3_ g2_ g1_ g0_ node1 nand4_gate
xnand18 G_ op_nand45 op_nand44 op_nand35 op_nand6 node1 nand4_gate


xnand19 P_ p0 p1 p2 p3 node1 nand4_gate

.ends cla 

**** Main Circuit for CLA ****
* Power supply for the gates
Vdd node1 0 1.1V

* Instantiate CLA Subcircuit
Xcla p3_ p2_ p1_ p0_ g3_ g2_ g1_ g0_ cin P_ G_ cnz cny cnx node1 cla


Vin_p3_ p3_ 0 1.1
Vin_p2_ p2_ 0 1.1
Vin_p1_ p1_ 0 1.1
Vin_p0_ p0_ 0 1.1
Vin_g3_ g3_ 0 1.1
Vin_g2_ g2_ 0 1.1
Vin_g1_ g1_ 0 1.1
Vin_g0_ g0_ 0 1.1
Vin_cn cin 0 1.1

.TEMP 25
.CONTROL
*op
*display
dc TEMP 25 90 70

print V(P_) V(G_) V(cnz) V(cny) V(cnx) ((-V(node1)*I(Vdd))+(-V(p3_)*I(Vin_p3_))+(-V(p2_)*I(Vin_p2_))+(-V(p1_)*I(Vin_p1_))+(-V(p0_)*I(Vin_p0_))+(-V(g3_)*I(Vin_g3_))+(-V(g2_)*I(Vin_g2_))+(-V(g1_)*I(Vin_g1_))+(-V(g0_)*I(Vin_g0_))+(-V(cin)*I(Vin_cn)))/V(node1) 
echo "Gates+Inputs:" > GatesAndInputs.txt
*echo "INV:x_in_inv1:"; print  V(p0_)
print V(m.xcla.x_in_inv1.mn1#gate) >> GatesAndInputs.txt
*echo "INV:x_in_inv2:"; print  V(p1_)
print V(m.xcla.x_in_inv2.mn1#gate) >> GatesAndInputs.txt
*echo "INV:x_in_inv3:"; print  V(p2_)
print V(m.xcla.x_in_inv3.mn1#gate) >> GatesAndInputs.txt
*echo "INV:x_in_inv4:"; print  V(p3_)
print V(m.xcla.x_in_inv4.mn1#gate) >> GatesAndInputs.txt
*echo "INV:xinv1"; print  V(m.xcla.xinv1.mn1#gate)
print V(m.xcla.xinv1.mn1#gate) >> GatesAndInputs.txt

*echo "NAND2:xnand1:"; print V(p0) V(g0)
print V(m.xcla.xnand1.mna#gate) V(m.xcla.xnand1.mnb#gate) >> GatesAndInputs.txt
*echo "NAND2:xnand2:"; print V(cn_) V(g0)
print V(m.xcla.xnand2.mna#gate) V(m.xcla.xnand2.mnb#gate) >> GatesAndInputs.txt
*echo "NAND2:xnand3:"; print V(op_nand1) V(op_nand2)
print V(m.xcla.xnand3.mna#gate) V(m.xcla.xnand3.mnb#gate) >> GatesAndInputs.txt
*echo "INV:xinv2:"   ; print V(op_nand_3)
print V(m.xcla.xinv2.mn1#gate) >> GatesAndInputs.txt

*echo "NAND2:xnand4:"; print V(p1) V(g1)
print V(m.xcla.xnand4.mna#gate) V(m.xcla.xnand4.mnb#gate) >> GatesAndInputs.txt
*echo "NAND3:xnand5:"; print V(p0) V(g0) V(g1)
print V(m.xcla.xnand5.xnand31.mna#gate) V(m.xcla.xnand5.xnand31.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand5.xinv32.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand5.xnand33.mna#gate) V(m.xcla.xnand5.xnand33.mnb#gate) >> GatesAndInputs.txt
*echo "NAND3:xnand6:"; print V(cn_) V(g0) V(g1)
print V(m.xcla.xnand6.xnand31.mna#gate) V(m.xcla.xnand6.xnand31.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand6.xinv32.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand6.xnand33.mna#gate) V(m.xcla.xnand6.xnand33.mnb#gate) >> GatesAndInputs.txt
*echo "NAND3:xnand7:"; print V(op_nand31) V(op_nand32) V(op_nand4)
print V(m.xcla.xnand7.xnand31.mna#gate) V(m.xcla.xnand7.xnand31.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand7.xinv32.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand7.xnand33.mna#gate) V(m.xcla.xnand7.xnand33.mnb#gate) >> GatesAndInputs.txt
*echo "INV:xinv3:"   ; print V(op_nand33)
print V(m.xcla.xinv3.mn1#gate) >> GatesAndInputs.txt

*echo "NAND2:xnand8:" ; print V(p2) V(g2) 
print V(m.xcla.xnand8.mna#gate) V(m.xcla.xnand8.mnb#gate) >> GatesAndInputs.txt
*echo "NAND3:xnand9:" ; print V(p1) V(g1) V(g2)
print V(m.xcla.xnand9.xnand31.mna#gate) V(m.xcla.xnand9.xnand31.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand9.xinv32.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand9.xnand33.mna#gate) V(m.xcla.xnand9.xnand33.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand10:"; print V(cn_) V(g0) V(g1) V(g2)
print V(m.xcla.xnand10.xnand41.mna#gate) V(m.xcla.xnand10.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand10.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand10.xnand43.mna#gate) V(m.xcla.xnand10.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand10.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand10.xnand45.mna#gate) V(m.xcla.xnand10.xnand45.mnb#gate) >> GatesAndInputs.txt

*echo "NAND4:xnand11:"; print V(p0) V(g0) V(g1) V(g2)
print V(m.xcla.xnand11.xnand41.mna#gate) V(m.xcla.xnand11.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand11.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand11.xnand43.mna#gate) V(m.xcla.xnand11.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand11.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand11.xnand45.mna#gate) V(m.xcla.xnand11.xnand45.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand12:"; print V(op_nand34) V(op_nand41) V(op_nand42) V(op_nand5)
print V(m.xcla.xnand12.xnand41.mna#gate) V(m.xcla.xnand12.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand12.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand12.xnand43.mna#gate) V(m.xcla.xnand12.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand12.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand12.xnand45.mna#gate) V(m.xcla.xnand12.xnand45.mnb#gate) >> GatesAndInputs.txt
*echo "INV:xinv4:"    ; print V(op_nand43)
print V(m.xcla.xinv4.mn1#gate) >> GatesAndInputs.txt
*echo "NAND2:xnand13:"; print V(p3) V(g3)
print V(m.xcla.xnand13.mna#gate) V(m.xcla.xnand13.mnb#gate) >> GatesAndInputs.txt
*echo "NAND3:xnand14:"; print V(p2) V(g3) V(g2)
print V(m.xcla.xnand14.xnand31.mna#gate) V(m.xcla.xnand14.xnand31.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand14.xinv32.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand14.xnand33.mna#gate) V(m.xcla.xnand14.xnand33.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand16:"; print V(p1) V(g3) V(g1) V(g2)
print V(m.xcla.xnand16.xnand41.mna#gate) V(m.xcla.xnand16.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand16.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand16.xnand43.mna#gate) V(m.xcla.xnand16.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand16.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand16.xnand45.mna#gate) V(m.xcla.xnand16.xnand45.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand17:"; print V(g3) V(g2) V(g1) V(g0)
print V(m.xcla.xnand17.xnand41.mna#gate) V(m.xcla.xnand17.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand17.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand17.xnand43.mna#gate) V(m.xcla.xnand17.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand17.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand17.xnand45.mna#gate) V(m.xcla.xnand17.xnand45.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand18:"; print V(op_nand45) V(op_nand44) V(op_nand35) V(op_nand6) 
print V(m.xcla.xnand18.xnand41.mna#gate) V(m.xcla.xnand18.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand18.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand18.xnand43.mna#gate) V(m.xcla.xnand18.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand18.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand18.xnand45.mna#gate) V(m.xcla.xnand18.xnand45.mnb#gate) >> GatesAndInputs.txt
*echo "NAND4:xnand19:"; print V(p0_) V(p1_) V(p2_) V(p3_) 
print V(m.xcla.xnand19.xnand41.mna#gate) V(m.xcla.xnand19.xnand41.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand19.xinv42.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand19.xnand43.mna#gate) V(m.xcla.xnand19.xnand43.mnb#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand19.xinv44.mn1#gate) >> GatesAndInputs.txt
print V(m.xcla.xnand19.xnand45.mna#gate) V(m.xcla.xnand19.xnand45.mnb#gate) >> GatesAndInputs.txt

.ENDC
.END

